US04980356
The procedure is as in Example 15, starting with 2-amino-6-trifluoromethoxybenzothiazole (9.4 g) and 4-bromo-1-butene (10.8 g) in 2-propanol (30 cc). The mixture is heated for 48 hours to boiling. After cooling of the mixture to a temperature in the region of 20° C., the precipitate is filtered off and then washed with 2-propanol (2×50 cc). 3-(3-Butenyl)-2-imino-6-trifluoromethoxybenzothiazoline hydrobromide (2.5 g), m.p. 202° C., is obtained.

reactant | 2-amino-6-trifluoromethoxybenzothiazole | 9.4 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | 4-bromo-1-butene | 10.8 g | BrCCC=C | C4H7Br
solvent | 2-propanol | 30 cc | CC(C)O | C3H8O
product | 3-(3-Butenyl)-2-imino-6-trifluoromethoxybenzothiazoline hydrobromide | 2.5 g | Br.C(CC=C)N1C(SC2=C1C=CC(=C2)OC(F)(F)F)=N | InChI=1S/C12H11F3N2OS.BrH/c1-2-3-6-17-9-5-4-8(18-12(13,14)15)7-10(9)19-11(17)16;/h2,4-5,7,16H,1,3,6H2;1H
